US07253286B2
N6-Ethyl-4-(3-chloro-4-(((methylamino)carbonyl)amino)phenoxy)-7-((1-methyl-4-piperidyl)methoxy)-6-quinolinecarboxamide
N6-Ethyl-4-(3-chloro-4-(((methylamino)carbonyl)amino)phenoxy)-7-hydroxy-6-quinolinecarboxamide) (80.0 mg, 0.193 mmol), tert-butyl 4-(bromomethyl)-1-piperidinecarboxylate (80.5 mg, 0.289 mmol) and potassium carbonate (33.3 mg, 0.241 mmol) were heated and stirred in dimethylformamide (1 ml) at 60° C. for 15 hours. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained product was stirred in trifluoroacetic acid (1 ml) at room temperature for 1 hour, and then the reaction solution was concentrated under reduced pressure, the residue was dissolved in methanol and triethylamine was added dropwise for neutralization. After distilling off the solvent, the residue was dissolved in a tetrahydrofuran (2 ml)-methanol (2 ml) mixed solvent, and then a 37% formaldehyde aqueous solution (0.360 ml), acetic acid (0.070 ml) and sodium cyanoborohydride (36.3 mg, 0.579 mmol) were added in that order at room temperature and the mixture was stirred for 15 minutes. After adding basic silica gel to the reaction solution and concentrating it, it was subjected to silica gel column chromatography, the target fraction was concentrated under reduced pressure, the obtained crude product was suspended in ethyl acetate, the suspension was diluted with hexane, and the crystals were filtered out, washed with hexane and blow-dried to obtain the title compound (57.5 mg, 0.109 mmol, 57%) as white crystals.

reactant | N6-Ethyl-4-(3-chloro-4-(((methylamino)carbonyl)amino)phenoxy)-7-hydroxy-6-quinolinecarboxamide | C(C)NC(=O)C=1C=C2C(=CC=NC2=CC1O)OC1=CC(=C(C=C1)NC(=O)NC)Cl | C20H19ClN4O4
reactant | tert-butyl 4-(bromomethyl)-1-piperidinecarboxylate | 0.289 mmol, 80.5 mg | BrCC1CCN(CC1)C(=O)OC(C)(C)C | C11H20BrNO2
reactant | potassium carbonate | 0.241 mmol, 33.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | formaldehyde | 0.360 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.579 mmol, 36.3 mg | C(#N)[BH3-].[Na+]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | acetic acid | 0.070 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N6-Ethyl-4-(3-chloro-4-(((methylamino)carbonyl)amino)phenoxy)-7-((1-methyl-4-piperidyl)methoxy)-6-quinolinecarboxamide | 0.109 mmol, 57.5 mg, 57% | C(C)NC(=O)C=1C=C2C(=CC=NC2=CC1OCC1CCN(CC1)C)OC1=CC(=C(C=C1)NC(=O)NC)Cl | C27H32ClN5O4
